US07834051B2
5-isopropyl-3,3-dimethylpyrrolidine-2,4-dione
To a solution of ethyl 4-{[(benzyloxy)carbonyl]amino}-2,2,5-trimethyl-3-oxohexanoate (7.2 g) in methanol (80 mL) was added 10% palladium carbon (containing 50% water, 3.0 g), and the mixture was stirred under a hydrogen atmosphere overnight. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. The obtained solid was washed with hexane to give the title compound as a colorless solid (yield: 2.64 g, 76%).

reactant | ethyl 4-{[(benzyloxy)carbonyl]amino}-2,2,5-trimethyl-3-oxohexanoate | 7.2 g | C(C1=CC=CC=C1)OC(=O)NC(C(C(C(=O)OCC)(C)C)=O)C(C)C | C19H27NO5
solvent | methanol | 80 mL | CO | CH4O
catalyst | palladium carbon | 3.0 g | [C].[Pd]
product | 5-isopropyl-3,3-dimethylpyrrolidine-2,4-dione | yield: 2.64 g, 76% | C(C)(C)C1C(C(C(N1)=O)(C)C)=O | C9H15NO2
